US09359336B2
The reaction mixture of 2-(5-(2H-tetrazol-5-yl)pyridin-3-yl)benzo[b]thiophen-5-amine (44.1 mg, 0.15 mmol, 1 eq) and 4-chloro-3-(trifluoromethyl)phenyl isocyanate (33.2 mg, 1 eq) in anhydrous tetrahydrofuran (1.5 mL) under nitrogen atmosphere was stirred at room temperature for 45 minutes. The reaction was then diluted with ethyl acetate, washed with aqueous ammonium chloride, brine, and dried with anhydrous sodium sulfate. The upper clear solution was decanted and concentrated. The soft solid was wrapped with silica gel and chromatographed (EtOAc to MeOH-EtOAc 1:4) to give 1-[4-chloro-3-(trifluoromethyl)phenyl]-3-{2-[5-(2H-tetrazol-5-yl)pyridin-3-yl]-1-benzothien-5-yl}urea as a yellow powder in the amount of 26 mg.

reactant | 2-(5-(2H-tetrazol-5-yl)pyridin-3-yl)benzo[b]thiophen-5-amine | 0.15 mmol, 44.1 mg, 1 eq | N=1NN=NC1C=1C=C(C=NC1)C1=CC2=C(S1)C=CC(=C2)N | C14H10N6S
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | 33.2 mg, 1 eq | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-chloro-3-(trifluoromethyl)phenyl]-3-{2-[5-(2H-tetrazol-5-yl)pyridin-3-yl]-1-benzothien-5-yl}urea | ClC1=C(C=C(C=C1)NC(=O)NC=1C=CC2=C(C=C(S2)C=2C=NC=C(C2)C=2N=NNN2)C1)C(F)(F)F | C22H13ClF3N7OS
